US07541372B2
b) 2-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamine
To a suspension of 2-(5-methyl-3-phenyl-isoxazol-4-yl)-5-(2-nitro-phenyl)-[1,3,4]oxadiazole (2.20 g, 63.2 mmol) in ethanol (100 mL) was added under a nitrogen atmosphere aqueous HCl (1 M, 7.6 mL, 76 mmol) and tin(II) chloride dihydrate (7.13 g, 31.6 mmol). The reaction mixture was then stirred for 2 h at 90° C., cooled to ambient temperature and poured onto an aqueous solution of sodium carbonate (saturated, 50 mL) and ethyl acetate (100 mL), stirred for 1 h and was filtered over Hyflo®. The Hyflo® was then washed with ethyl acetate (500 mL) and the aqueous phase extracted with ethyl acetate (100 mL). Drying over sodium sulfate, concentration and purification by chromatography (SiO2, heptane:ethyl acetate=95:5 to 50:50) afforded the title compound (564 mg, 28%) as a white solid. MS: m/e=319.1 [M+H]+.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-5-(2-nitro-phenyl)-[1,3,4]oxadiazole | 63.2 mmol, 2.20 g | CC1=C(C(=NO1)C1=CC=CC=C1)C=1OC(=NN1)C1=C(C=CC=C1)[N+](=O)[O-] | C18H12N4O4
reactant | HCl | 76 mmol, 1 M, 7.6 mL | Cl | ClH
reactant | tin(II) chloride dihydrate | 31.6 mmol, 7.13 g | O.O.[Sn](Cl)Cl
reactant | sodium carbonate | 50 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamine | 564 mg, 28% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=C(C=CC=C1)N | C18H14N4O2
